Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([O:3][C:4]([C:5](=[O+:6][C-:7]([H:18])[H:19])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:17]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],5.452202352885102
[C:1]1([H:8])([H:9])[C@@:2]([C:6](=[C-:7][H:14])[H:10])([H:11])[C:3]([H:12])([H:13])[C:4]#[N+:5]1>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],9.583999583614201
[C:1]([O:2][C@:3]1([H:11])[C:5]([H:15])([H:16])[C@@:6]1([O:7][H:19])[H:18])([H:8])([H:9])[H:10].[C:4]([H:12])([H:13])([H:14])[H:17]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],63.28422968625721
[C:3](=[O:4])([H:8])[H:9].[N+:1](#[C-:2])[C:6]1=[N:7][C:5]1([H:10])[H:11]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],24.946428903936983
[O:1]=[C:2]=[N:7][C:6]([C:5]([C:4]([N:3]([H:8])[H:15])([H:9])[H:10])([H:11])[H:12])([H:13])[H:14]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],55.15423996930261
[C-:4]#[O+:5].[C:1]([C@@:2]([O:3][H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],43.899136470625095
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N+:1](#[C-:2])[N+:7]1=[C:3]=[C:4]([H:8])[O:5][N-:6]1,133.633710283744
[C:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]1=[C:4]([H:12])[C:3]1([H:9])[H:10])([H:5])([H:6])[H:7].[H:8][H:11],117.56836043273998
[C+:4](=[C:6]=[C-:7][H:15])[H:13].[O:1]1[C:2]([H:9])([H:10])[C:3]1([H:11])[H:12].[O:5]([H:8])[H:14]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],9.744934533058881
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[H:14][H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],60.78108422706859
[C:1]([C@:2]1([H:11])[C:3]([C:6]([H:13])([H:14])[H:15])=[N:4]1)([H:7])([H:8])[H:9].[O:5]([H:10])[H:12]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],56.22728203396038
[C-:3]#[O+:4].[C:5](#[N:6])[H:7].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7],27.8171827031708
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6]#[C:7][H:15])[C:3]([H:11])([H:13])[C:4]1=[C:5]([H:12])[H:14])([H:8])([H:9])[H:10],82.997535336734
[C:3]1[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2.[O:1]([C:2]([H:9])([H:10])[H:11])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],21.4240729226132
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[C:5](\[O:6][H:16])[H:15])[H:11])([C:4]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],88.367134167397
[C:1](=[C:2]([H:8])[H:9])([H:5])[H:7].[C:3](=[O:4])([H:10])[H:11].[H:6][H:12]>>[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],30.420636095700296
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:6](=[O:7])([H:9])[H:17].[O:3]=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],44.533405875655404
[C:1]([O+:2]=[C:3]([C@@:4]([N-:5][O:6][H:13])([C:7]([H:14])([H:15])[H:16])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],5.441367577540312
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[C:7][H:17])[H:16])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@@:5]2([H:16])[C:6]1=[C:7]([H:10])[H:17],86.8629640885288
[C:1]([C:2]#[C:3][C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]#[C:3][N+:5]#[C-:4])([H:6])([H:7])[H:8],62.569728260849196
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:4]([O:3][H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],85.73997601903159
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O-:1][C:3](=[C:4]([N:5]([C+:6]([C:2]#[N:7])[H:11])[H:10])[H:9])[H:8],127.697814355696
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C@@:5]1([H:12])[C:4]([H:10])([H:11])[O:6]1>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],46.236387243104694
[C:1]([O:2][C:7](=[C:6]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],60.09009020117556
